US06313311B1
6-Bromo-3-(1H-imidazol-4-ylmethyl)-indan-5-ol
Bromine (130 mg, 1 eq.) is added dropwise to a stirred suspension of 3-(1H-imidazol-4-ylmethyl)-indan-5-ol hydrochloride (130 mg) in acetic acid (6 ml). The mixture is stirred at 20-23° C. for 3 hours. The reaction mixture is then poured into water and is made alkaline with ammonium hydroxide solution. The product is extracted into ethyl acetate which is washed with water, dried with sodium sulfate and evaporated to dryness. The product is purified by flash chromatography using methylene chloride-methanol as eluent and is then converted to the hydrochloride salt in ethyl acetate-ethanol solution.

reactant | Bromine | 130 mg, 1 eq. | BrBr | Br2
reactant | 3-(1H-imidazol-4-ylmethyl)-indan-5-ol hydrochloride | 130 mg | Cl.N1C=NC(=C1)CC1CCC2=CC=C(C=C12)O
reactant | water | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 6-Bromo-3-(1H-imidazol-4-ylmethyl)-indan-5-ol | BrC1=C(C=C2C(CCC2=C1)CC=1N=CNC1)O | C13H13BrN2O
